2144-10-04 06:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ENDOSCOPY - At [**2144-10-3**] 07:45 PM
   - Underwent EGD
   - received 3 pRBCs without appropriate bump (AM Hct of 29 from 29,
   repeat 32)
   - Hemodynamically stable otherwise
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems: Feeling well. Mild chest discomfort. No SOB.
   Flowsheet Data as of  [**2144-10-4**] 06:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.6
C (97.9
   HR: 70 (58 - 76) bpm
   BP: 107/64(73) {90/46(55) - 137/85(97)} mmHg
   RR: 15 (12 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
           Total In:
                                                                  3,808 mL
                                                                    545 mL
   PO:
           TF:
   IVF:
                                                                    225 mL
                                                                    129 mL
   Blood products:
                                                                    583 mL
                                                                    417 mL
   Total out:
                                                                    500 mL
                                                                    200 mL
   Urine:
                                                                    500 mL
                                                                    200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,308 mL
                                                                    345 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   GEN: Well-appearing, well-nourished, NAD, Improved color
   HEENT:  MMM, EOMI, PERRL, sclera anicteric without pallor.
   NECK: JVP to 5cm, carotid pulses brisk
   COR: normal S1 S2, No M/R/G, Radial pulses +2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: No C/C/E, Good Capillary Refill no palpable cords
   NEURO: AoX3, CN II
 XII grossly intact. Resting RUE tremor.
   SKIN: No jaundice, cyanosis or ecchymoses.
   Labs / Radiology
   249 K/uL
   10.4 g/dL
   97 mg/dL
   0.8 mg/dL
   24 mEq/L
   4.0 mEq/L
   19 mg/dL
   108 mEq/L
   138 mEq/L
   29.9 %
   11.3 K/uL
        [image002.jpg]
                            [**2144-10-4**]  03:56 AM
   WBC
   11.3
   Hct
   29.9
   Plt
   249
   Cr
   0.8
   Glucose
   97
   Other labs: PT / PTT / INR:13.6/23.8/1.2, ALT / AST:55/17, Alk Phos / T
   Bili:59/1.1, Albumin:3.5 g/dL, LDH:118 IU/L, Ca++:8.6 mg/dL, Mg++:2.1
   mg/dL, PO4:3.0 mg/dL
   EGD:
   There was evidence of friable mucosa at the GE junction at area of
   previous BARRYX therapy. There was evidence of 4 visible vessels. There
   was no clot and no active bleeding. (injection)
   Otherwise normal EGD to second part of the duodenum
   Assessment and Plan
   44yM with Parkinsons, Barrett Esophagitis, s/p recent esophageal
   scrapping, presenting with melena, lightheadedness, fatigue and likely
   Hct drop.
   .
   # GIB: Inappropriate bump following 3 pRBCs. 4 additional units
   cross-matched.
   - f/u GI Recs reguarding potential re-scoping if needed
   - PIVx2
   - Serial Hcts
   - IV PPi
   - Carafate
   - IV hydration while NPO
   .
   # Parkinsons Disease: Symptoms stable
   - Cont Rasagaline, Requip (Home meds brought in by wife)
   ICU [**Name (NI) 232**]
   Nutrition: NPO will provide IVF maintenance
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-10-3**] 06:59 PM
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPi
   Communication:  Patient and wife
   [**Name (NI) 129**] status: Full code
   Disposition: [**Hospital Unit Name 10**]

2144-10-05 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -GI would like pt to stay in ICU overnight again in setting of high
   risk for rebleed.
   -5p Hct down to 31 from 34 so pt remains NPO
   -Am call out planned if Hct remains stable
   -Cont maintenance fluids with D5 1/2NS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-5**] 06:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 62 (56 - 72) bpm
   BP: 116/74(83) {99/58(69) - 134/80(92)} mmHg
   RR: 19 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   Lying 115/66 HR 66
   Sitting 114 / 61 HR 86
   Standing 106 / 67 HR 82
   Total In:
                                                                  1,740 mL
                                                                     61 mL
   PO:
             TF:
   IVF:
                                                                  1,323 mL
                                                                     61 mL
   Blood products:
                                                                    417 mL
   Total out:
                                                                  2,200 mL
                                                                    300 mL
   Urine:
                                                                  2,200 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -460 mL
                                                                   -239 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   GEN: NAD, A)x3 Improved color
   HEENT:  MMM, EOMI, PERRL, sclera anicteric without pallor.
   NECK: JVP to 5cm, carotid pulses brisk
   COR: normal S1 S2, No M/R/G, Radial pulses +2
   PULM: Lungs CTAB, no W/R/R
   ABD: Soft, NT, ND, +BS, no HSM, no masses
   EXT: No C/C/E, Good Capillary Refill no palpable cords
   NEURO: AoX3, CN II
 XII grossly intact. Improved RUE tremor.
   SKIN: No jaundice, cyanosis or ecchymoses.
   Labs / Radiology
   262 K/uL
   10.4 g/dL
   99 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.1 mEq/L
   19 mg/dL
   104 mEq/L
   139 mEq/L
   29.8 %
   10.1 K/uL
        [image002.jpg]
                            [**2144-10-4**]  03:56 AM
                            [**2144-10-4**]  07:48 AM
                            [**2144-10-4**]  11:54 AM
                            [**2144-10-4**]  05:14 PM
                            [**2144-10-4**]  11:42 PM
                            [**2144-10-5**]  04:59 AM
   WBC
   11.3
   10.1
   Hct
   29.9
   32.6
   34.2
   31.2
   31.6
   29.8
   Plt
   249
   262
   Cr
   0.8
   1.0
   Glucose
   97
   99
   Other labs: PT / PTT / INR:13.5/23.3/1.2, ALT / AST:55/17, Alk Phos / T
   Bili:59/1.1, Albumin:3.5 g/dL, LDH:118 IU/L, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   44yM with Parkinsons, Barrett Esophagitis, s/p recent esophageal
   scrapping, presenting with melena, lightheadedness, fatigue and likely
   Hct drop.
   .
   # GIB: Hct has remained stable. 4 additional units cross-matched.
   - f/u GI Recs
   - PIVx2
   - Serial Hcts spacing out
   - IV PPi will change to [**Hospital1 **]
   - Carafate
   - IV hydration while NPO (will give NS given that pt was orthostatic
   mildy tachy compared to baseline)
   .
   # Parkinsons Disease: Symptoms stable
   - Cont Rasagaline, Requip (Home meds brought in by wife)
   ICU [**Name (NI) 232**]
   Nutrition: Clears
   Glycemic Control:
   Lines:
   PIV x2
   Prophylaxis:
   DVT:  Pneumoboots
   Stress ulcer:  PPi
   Communication:  Patient and wife
   [**Name (NI) 129**] status: Full code
   Disposition: [**Hospital Unit Name 10**]

2144-10-05 12:19:00 Physician Attending Progress Note
Chief Complaint: GI Bleed. amemia due to blood loss,
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Hct stable. NPO yesterday. Hemodynamically stable.
   Continued mild chest discomfort.
   Afebrile.
   Normal O2 saturation off supplemental oxygen.
   24 Hour Events:
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   protonix, colace, sucralfate, Requip
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2144-10-5**] 12:18 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.3
C (97.3
   HR: 76 (56 - 76) bpm
   BP: 116/74(83) {99/58(69) - 134/80(92)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  1,740 mL
                                                                    121 mL
   PO:
             TF:
   IVF:
                                                                  1,323 mL
                                                                    121 mL
   Blood products:
                                                                    417 mL
   Total out:
                                                                  2,200 mL
                                                                    300 mL
   Urine:
                                                                  2,200 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -460 mL
                                                                   -179 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///28/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: No(t) Systolic,
   Diastolic), Split S1
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Bronchial: , No(t)
   Wheezes : , No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right: Absent, Left: Absent, No(t) Cyanosis, No(t)
   Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): Person, place, time, Movement: Purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   262 K/uL
   99 mg/dL
   1.0 mg/dL
   28 mEq/L
   4.1 mEq/L
   19 mg/dL
   104 mEq/L
   139 mEq/L
   29.8 %
   10.1 K/uL
        [image002.jpg]
                            [**2144-10-4**]  03:56 AM
                            [**2144-10-4**]  07:48 AM
                            [**2144-10-4**]  11:54 AM
                            [**2144-10-4**]  05:14 PM
                            [**2144-10-4**]  11:42 PM
                            [**2144-10-5**]  04:59 AM
   WBC
   11.3
   10.1
   Hct
   29.9
   32.6
   34.2
   31.2
   31.6
   29.8
   Plt
   249
   262
   Cr
   0.8
   1.0
   Glucose
   97
   99
   Other labs: PT / PTT / INR:13.5/23.3/1.2, ALT / AST:55/17, Alk Phos / T
   Bili:59/1.1, Albumin:3.5 g/dL, LDH:118 IU/L, Ca++:9.0 mg/dL, Mg++:2.0
   mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 .H/O PARKINSON'S DISEASE
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ANEMIA
   Patient doing well without evidence of ongoing acute bleeding.
   Hemodynamically stable. Starting oral feeding today. Monitor hct.
   Coagulation parameters normal.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2144-10-3**] 06:59 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments: Not applicable.
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes